US08030487B2
Synthesis of 5-(3-(Trifluoromethyl)Benzamido)-2-Chlorobenzoic Acid (Intermediate 1)
To a stirring solution of 5-amino-2-chlorobenzoic acid (1.74 g, 10.1 mmol) in anhydrous THF (60 mL), 3-(trifluoromethyl)benzoyl chloride (2.33 g, 11.2 mmol) was added slowly. The mixture was stirred at room temperature under argon for overnight. The solvent was removed under reduced pressure and re-crystallized from acetone/chloroform (v/v 1:1) to afford the title compound as a white solid (1.5 g, 43%).

reactant | 5-amino-2-chlorobenzoic acid | 10.1 mmol, 1.74 g | NC=1C=CC(=C(C(=O)O)C1)Cl | C7H6ClNO2
reactant | 3-(trifluoromethyl)benzoyl chloride | 11.2 mmol, 2.33 g | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 5-(3-(Trifluoromethyl)Benzamido)-2-Chlorobenzoic Acid | 1.5 g, 43% | FC(C=1C=C(C(=O)NC=2C=CC(=C(C(=O)O)C2)Cl)C=CC1)(F)F | C15H9ClF3NO3
